US06492520B1
1-(1-Ethyl-propyl)-4,7-dimethyl-5-(2,4,6-trimethyl-phenoxy)-1,2,3,4-tetrahydro-pyrido[3,4-b]pyrazine
A mixture of 1-(1-Ethyl-propyl)-4,7-dimethyl-5-(2,4,6-trimethyl-phenoxy)-1,4-dihydro-2H-pyrido[3,4-b]pyrazin-3-one (21 mg, 0.055 mmol) and 2 M borane dimethylsulfide complex (BH3•DMS) (0.07 ml, 0.14 mmol) in 2 ml of dry THF was heated at reflux for 3 hours. The mixture was cooled to 0° C. and quenched with 0.2 ml of meoh and 0.2 ml of concentrated hydrochloric acid (HCl). The resulting mixture was stirred at room temperature for 2 hours and concentrated to dryness. The residue was quenched with water and extracted with chloroform. The organic layer was dried and concentrated to give 19 mg of a clear oil that was purified through silica gel column chromatography using 10% ethyl acetate in hexane as eluent to give 11 mg of the title compound as white crystals, mp 78-80° C.; 1H NMR (CDCl3) δ 6.85(s,2H), 6.28(s,1H), 3.73(m,1H), 3.12 (m,4H), 2.85(s,3H), 2.29(s,3H), 2.,13(s,3H), 2.11 (s,6H), 1.61(m,4H), 0.90(t,6H) ppm.

reactant | 1-(1-Ethyl-propyl)-4,7-dimethyl-5-(2,4,6-trimethyl-phenoxy)-1,4-dihydro-2H-pyrido[3,4-b]pyrazin-3-one | 0.055 mmol, 21 mg | C(C)C(CC)N1C2=C(N(C(C1)=O)C)C(=NC(=C2)C)OC2=C(C=C(C=C2C)C)C | C23H31N3O2
reactant | borane dimethylsulfide | 0.14 mmol, 2 M, 0.07 ml | CSC.B
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(1-Ethyl-propyl)-4,7-dimethyl-5-(2,4,6-trimethyl-phenoxy)-1,2,3,4-tetrahydro-pyrido[3,4-b]pyrazine | 19 mg | C(C)C(CC)N1C2=C(N(CC1)C)C(=NC(=C2)C)OC2=C(C=C(C=C2C)C)C | C23H33N3O
